US04970023
Then, 2.02 g (12.8 mmol) of the above (+)-2-methyl octanoic acid, 2.02 g (11.9 mmol) of 4-hydroxy biphenyl and 10 ml of toluene were charged into a flask, and further 1.0 ml (13.7 mmol) of thionyl chloride was added with stirring, which were then reacted for 9 hours while maintaining at a temperature of 70°~80° C. After the completion of the reaction, the reaction mixture was cooled to room temperature, added with water to decompose excess thionyl chloride, washed with water and then dried on anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified through a column chromatography of silica gel to obtain 3.43 g of an oily (+)-biphenyl-2-methyloctanoate having a specific rotary power [α]25D =+16.3° (2.6% by weight, in chloroform).

reactant | (+)-2-methyl octanoic acid | 12.8 mmol, 2.02 g | CC(C(=O)O)CCCCCC | C9H18O2
reactant | 4-hydroxy biphenyl | 11.9 mmol, 2.02 g | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 13.7 mmol, 1.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | (+)-biphenyl 2-methyloctanoate | 3.43 g | C1(=CC=CC=C1)C1=CC=CC=C1.CC(C(=O)[O-])CCCCCC | InChI=1S/C12H10.C9H18O2/c1-3-7-11(8-4-1)12-9-5-2-6-10-12;1-3-4-5-6-7-8(2)9(10)11/h1-10H;8H,3-7H2,1-2H3,(H,10,11)/p-1
